* Minimal Sky130-style lib for xEDA when full PDK is not mounted.
* Typical corner (tt) only. For full PDK, mount open_pdks sky130A at /opt/pdk.
*
* Typical corner (tt)
.lib tt
.param mc_mm_switch=0
.param mc_pr_switch=0

* Simple level-1 MOSFET models for ngspice (functional, not process-accurate)
.model nmos_01v8 nmos (level=1 kp=100u vto=0.5 gamma=0.5 phi=0.7 cgso=1n cgdo=1n cj=1m)
.model pmos_01v8 pmos (level=1 kp=50u vto=-0.5 gamma=0.5 phi=0.7 cgso=1n cgdo=1n cj=1m)

.subckt sky130_fd_pr__nfet_01v8 d g s b
.param w=1u l=1u nf=1 ad=0 as=0 pd=0 ps=0 nrd=0 nrs=0 sa=0 sb=0 sd=0 mult=1
M1 d g s b nmos_01v8 w={w} l={l}
.ends

.subckt sky130_fd_pr__pfet_01v8 d g s b
.param w=1u l=1u nf=1 ad=0 as=0 pd=0 ps=0 nrd=0 nrs=0 sa=0 sb=0 sd=0 mult=1
M1 d g s b pmos_01v8 w={w} l={l}
.ends

.subckt sky130_fd_pr__pnp_05v5_W3p40L3p40 c b e s
* Functional PNP model for BGR simulation
Q1 c b e pnp_model
.model pnp_model pnp (bf=100 is=1e-16 vaf=50)
.ends

.endl tt
